US07635698B2
Step 2. 1-[4-(4-Chloro-2-fluoro-benzoyl)-4-hydroxy-piperidin-1-yl]-ethanone
To a solution of diisopropylamine (4.42 mL, 31.59 mmol) in THF (20 mL) at 0° C. under Ar, was added n-BuLi (12.63 mL, 31.59 mmol, 2.5 M solution in hexane). The mixture was stirred at 0° C. for 30 min. After cooling to −78° C., (4-chloro-2-fluoro-phenyl)-trimethylsilanyloxyacetonitrile (8.12 g, 31.59 mmol) was added. After stirring at −78° C. for 1.5 h, 1-acetyl-piperidin-4-one (4.45 g, 31.59 mmol) was added. The final mixture was stirred at −20° C. for overnight. After concentration, EtOAc (100 mL) was added. The organic phase was washed with Sat. NH4OAc solution, Sat. NaHCO3 solution and concentrated. The residue was dissolved in MeOH (30 mL). 1N HCl solution (20 mL) was added. The mixture was stirred at RT for 2 h. After concentrating the mixture, EtOAc (50 mL) was added. The organic layer was basified with Sat. NaHCO3, dried over Na2SO4 and concentrated. The residue was purified by column chromatography (Ethyl acetate) to give the desired product (4 g, 42% yield) as a white solid. MS: (ESI), M/Z, 300 (M+1). Retention time: 0.87 min (FA-standard).

reactant | diisopropylamine | 31.59 mmol, 4.42 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 31.59 mmol, 2.5 M, 12.63 mL | [Li]CCCC
reactant | (4-chloro-2-fluoro-phenyl)-trimethylsilanyloxyacetonitrile | 31.59 mmol, 8.12 g | ClC1=CC(=C(C=C1)C(C#N)O[Si](C)(C)C)F | C11H13ClFNOSi
reactant | 1-acetyl-piperidin-4-one | 31.59 mmol, 4.45 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[4-(4-Chloro-2-fluoro-benzoyl)-4-hydroxy-piperidin-1-yl]-ethanone | 4 g, 42% yield | ClC1=CC(=C(C(=O)C2(CCN(CC2)C(C)=O)O)C=C1)F | C14H15ClFNO3
